US08937087B2
To a mixture of methyl (2-fluoro-6-hydroxyphenyl)carbamate (1.06 g) and MeCN (90 mL) was added p-toluenesulfonic acid monohydrate (1.09 g), followed by stirring at room temperature for 5 minutes. To the reaction mixture was added N-iodosuccinimide (1.29 g), followed by stirring at room temperature overnight. The reaction mixture was diluted with chloroform, and washed with a 10% aqueous sodium thiosulfate solution and brine in this order. The organic layer was dried over Na2SO4 and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: Hex/EtOAc=85/15-75/25) to obtain methyl (2-fluoro-6-hydroxy-3-iodophenyl)carbamate (408 mg).

reactant | methyl (2-fluoro-6-hydroxyphenyl)carbamate | 1.06 g | FC1=C(C(=CC=C1)O)NC(OC)=O | C8H8FNO3
reactant | MeCN | 90 mL | CC#N | C2H3N
reactant | p-toluenesulfonic acid monohydrate | 1.09 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | N-iodosuccinimide | 1.29 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl (2-fluoro-6-hydroxy-3-iodophenyl)carbamate | 408 mg | FC1=C(C(=CC=C1I)O)NC(OC)=O | C8H7FINO3
